data/oMe_Silver.jsonl
{"reaction_id": "NR-133_1-c1nccnc1_2-C(O)C","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(C(O)C)C(=O)(c1nccnc1)"],"products_smiles": ["C(=O)(C(O)C)C(O)(c1nccnc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(O)C)=C([O-])(c1nccnc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(O)C)=C(O)(c1nccnc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(C(O)C)=C(O)(c1nccnc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(O)C)C(O)(c1nccnc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
{"reaction_id": "NR-138_1-c1ccc(OC)cc1_2-Cl_3-c1ccccc1_4-c1ccc(Cl)cc1_5-C(Br)(Br)Br_6-c1ccc(OC)cc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(OC)cc1)(Cl)(c1ccccc1)","C(=O)(c1ccc(Cl)cc1)(C(Br)(Br)Br)","Nc1ccc(OC)cc1"],"products_smiles": ["C(C(=O)c1ccc(OC)cc1)(Cl)(c1ccccc1)C(c1ccc(Cl)cc1)(C(Br)(Br)Br)Nc1ccc(OC)cc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(OC)cc1)(Cl)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(Cl)=C(O)c1ccc(OC)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(OC)cc1)(Cl)(c1ccccc1)C(c1ccc(Cl)cc1)(C(Br)(Br)Br)Nc1ccc(OC)cc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(OC)cc1)(Cl)(c1ccccc1)C(c1ccc(Cl)cc1)(C(Br)(Br)Br)Nc1ccc(OC)cc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
